US05331005
2.67 g (0.01 m) of 3-(2-aminoethyl)-1H-indole-5-yl-N-methyl methane sulphonamide and 10 mL of acetone were charged in a 25 mL round bottom flask. 1.64g (0.01 m) of ethyl N-phenylformimidate were added and the mixture was stirred at room temperature for 24 hours. When the reaction was deemed to have terminated, as per the TLC control (eluant: butanol/acetic acid/H2O 65/13/22) the acetone was concentrated to dryness and the oil obtained was crystallized from toluene. It was filtered, was washed with 10 mL of toluene and dried in a current of air at 50° C. to give 2.5 g of 3-[2-(N-phenylaminomethyleneamino)ethyl]-1H-indole-5-yl-N-methyl methane sulphonamide, in the form of a cream colored solid, representing a 67% yield. M.p.=72°-73° C.

reactant | 3-(2-aminoethyl)-1H-indole-5-yl-N-methyl methane sulphonamide | 2.67 g | NCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C12H17N3O2S
reactant | ethyl N-phenylformimidate | 1.64g | C1(=CC=CC=C1)N=COCC | C9H11NO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 3-[2-(N-phenylaminomethyleneamino)ethyl]-1H-indole-5-yl-N-methyl methane sulphonamide | 2.5 g, 67% yield | C1(=CC=CC=C1)NC=NCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)NC | C19H22N4O2S
